US07754745B2
[3-(2-{(3S)-3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazol-5-yl)-1,2,4-oxadiazol-5-yl]methanol
A mixture of N′-hydroxy-2-{(3S)-3-[2-(trifluoromethyl)phenoxy]-pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide (373 mg, 1 mmol), ethyl glycolate (380 μL, 4 mmol) and sodium ethoxide, (21 wt. % solution in ethyl alcohol, 1.6 mL, 4.2 mmol) in ethanol (10 mL) was refluxed for 30 min. After cooling to rt, the mixture was diluted with water and extracted with EtOAc. The EtOAc extract was washed with water, dried (Na2SO4) and concentrated. The residue was triturated with Et2O to give the title compound as a pale yellow powder. 1H NMR (500 MHz, acetone-d6): δ 7.83 (s, 1 H), 7.69-7.65 (m, 2 H), 7.41 (d, 1 H), 7.16 (t, 1 H), 5.52 (m, 1 H), 5.05 (s, 1 H), 4.87 (s, 2 H), 3.98 (m, 1 H), 3.85-3.69 (m, 3 H), 2.60-2.44 (m, 2 H).

reactant | N′-hydroxy-2-{(3S)-3-[2-(trifluoromethyl)phenoxy]-pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide | 1 mmol, 373 mg | ON=C(N)C1=CN=C(S1)N1C[C@H](CC1)OC1=C(C=CC=C1)C(F)(F)F | C15H15F3N4O2S
reactant | ethyl glycolate | 4 mmol, 380 μL | C(CO)(=O)OCC | C4H8O3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | [3-(2-{(3S)-3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazol-5-yl)-1,2,4-oxadiazol-5-yl]methanol | FC(C1=C(O[C@@H]2CN(CC2)C=2SC(=CN2)C2=NOC(=N2)CO)C=CC=C1)(F)F | C17H15F3N4O3S
